US09315491B2
5-Ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid diethylamide
EDC (50 mg, 1.5 eq.), HOBT (40 mg, 1.5 eq.), Et2NH (0.0275 ml, 1.5 eq.) and Et3N (0.05 ml, 2.0 eq.) were added to a stirred solution of 5-ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid (80 mg, 1 eq.) in dry DMF (2 ml) and the mixture reacted overnight at r.t. The mixture was quenched with H2O, extracted with EA, and washed with brine. The crude was purified by chromatography to give a product (43 mg, 48%).

reactant | EDC | 50 mg, 1.5 eq.
reactant | HOBT | 40 mg, 1.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et2NH | 0.0275 ml, 1.5 eq. | N(CC)CC | C4H11N
reactant | Et3N | 0.05 ml, 2.0 eq. | CCN(CC)CC | C6H15N
reactant | 5-ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid | 80 mg, 1 eq. | C(C)OC=1C(=NC(=NC1N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C(=O)O | C24H25N5O5
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-Ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid diethylamide | 43 mg, 48% | C(C)N(C(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)CC | C28H34N6O4
